US07696215B2
Using an analogous procedure to that described paragraph (C) in the portion of Example 1 which is concerned with the preparation of starting material methyl 3-[8-cyano-6-(4-ethylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoate was hydrolysed with 1N NaOH to give 3-[8-cyano-6-(4-ethylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoic acid; Mass Spectrum: M+H+ 418.

reactant | methyl 3-[8-cyano-6-(4-ethylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoate | C(#N)C=1C=C(C=C2C(N(C=NC12)C=1C=C(C(=O)OC)C=CC1C)=O)N1CCN(CC1)CC | C24H25N5O3
reactant | NaOH | 1N | [OH-].[Na+]
product | 3-[8-cyano-6-(4-ethylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoic acid | C(#N)C=1C=C(C=C2C(N(C=NC12)C=1C=C(C(=O)O)C=CC1C)=O)N1CCN(CC1)CC | C23H23N5O3
